US06617326B2
A mixture of 2-bromo-1-fluoro-4-nitrobenzene (A. Groweiss, Org. Process Res. Dev., 2000, 4, 30-33) (50.10 g, 0.228 mol), dried potassium acetate (44.70 g, 0.455 mol) and bis(pinacolato)diboron (59.16 g, 0.233 mol) in 1,4-dioxane (539 ml) and dimethylsulfoxide (11 ml) was degassed by bubbling nitrogen through the mixture for 1 h. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (5.58 g, 6.83 mmol) was added and the mixture was stirred at 90° C. under nitrogen for 18.5 h, adding more bis(pinacolato)diboron (7.34 g, 0.029 mol) after 2.5 h. After allowing to cool, the mixture was filtered through glass fibre paper, and the solid was washed with a little dichloromethane. The combined filtrates were evaporated in vacuo and the residue was partitioned between 2 M aqueous NaOH (800 ml) and diethyl ether (800 ml). The aqueous layer was then acidified to pH 6 with concentrated hydrochloric acid (120 ml), causing a solid to precipitate. After leaving in a fridge for 3 days, the solid was collected by filtration, washed with water and dried under vacuum to leave 54.82 g (90%) of 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane: 1H NMR (360 MHz, DMSO-d6) δ 1.33 (12H, s), 7.48 (1H, m), 8.40-8.45 (2H, m).

reactant | 2-bromo-1-fluoro-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | potassium acetate | 0.455 mol, 44.70 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.233 mol, 59.16 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | bis(pinacolato)diboron | 0.029 mol, 7.34 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 539 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 11 ml | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 6.83 mmol, 5.58 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 54.82 g, 90% | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
